2143-01-31 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2143-1-30**] 10:06 AM
 FEVER - 101.5
F - [**2143-1-30**] 04:00 PM
   - three sets of positive bcx
   - renal c/s: muddy [**Known lastname 175**] casts c/w ATN. recommended some maintenance
   IVFs as patient appeared dry.  Also recommended renal US.  Urine pr/cr
   3.0 but difficult to interpret in the setting of ATN
   - Levophed weaned
   - transitioned back to insulin
   - spiked temp again; resent urine cx/blood cx.  sensitivities still
   pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-1-30**] 08:30 AM
   Acyclovir - [**2143-1-30**] 10:41 AM
   Cefipime - [**2143-1-31**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2143-1-30**] 10:05 AM
   Heparin Sodium (Prophylaxis) - [**2143-1-31**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-1-31**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**45**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.3
C (100.9
   HR: 91 (80 - 101) bpm
   BP: 120/56(72) {76/44(52) - 120/66(76)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (5 - 16)mmHg
   Total In:
                                                                  2,359 mL
                                                                    828 mL
   PO:
                                                                  1,240 mL
   TF:
   IVF:
                                                                  1,069 mL
                                                                    830 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                    835 mL
   Urine:
                                                                  1,845 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    514 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   118 K/uL
   9.3 g/dL
   197 mg/dL
   4.4 mg/dL
   18 mEq/L
   4.6 mEq/L
   58 mg/dL
   108 mEq/L
   137 mEq/L
   29.2 %
   5.8 K/uL
        [image002.jpg]
                             [**2143-1-29**]  09:10 PM
                             [**2143-1-29**]  10:25 PM
                             [**2143-1-30**]  05:23 AM
                             [**2143-1-31**]  04:10 AM
   WBC
   4.1
   6.4
   5.8
   Hct
   31.4
   27.5
   29.2
   Plt
   125
   134
   118
   Cr
   3.8
   3.8
   4.2
   4.4
   Glucose
   554
   519
   76
   197
   Other labs: PT / PTT / INR:13.6/32.6/1.2, CK / CKMB / Troponin-T:798//,
   Lactic Acid:1.3 mmol/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 68 year-old man with IgA meyloma s/p Velcade (last
   treatment [**2143-1-4**]), DM2, CKD, and schizophrenia who presents from his
   [**Hospital3 59**] with AMS and is admitted to the MICU for
   sepsis/hypotension.
   # Urosepsis/Hypotension:  Does not strictly meet SIRS criteria but has
   borderline tachycardia and fever, along with UTI as source of
   infection.  On pressors, received IVFs, and has RIJ in place.
   - check SVO2 on arrival
   - MAP > 65 with levophed as needed
   - SVO2 > 70%
   - IVFs for CVP 8-12
   - broaden to vanc/cefipime pending cultures
   - f/u blood and urine cultures
   - check ECHO
   # Acute kidney injury:  Creatinine elevated to 3 from baseline of 1.5
   with hyperkalemia. Likely prerenal versus ATN in setting of sepsis.
   - IVFs as above
   - trend creatinine
   - renally dose meds
   - urine lytes and renal consult if does not improve
   # Hyperglycemia/Diabetes:  History of poorly controlled finger sticks
   now exacerbated in setting of infection.
   - insulin gtt
   - no ketones in urine
   - restart HISS when glucose < 150
   # IgA multiple myeloma: Status post multiple cycles of Velcade with
   last treatment on [**2143-1-4**].  Patient of Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1359**].
   - will notify onc fellow
   - add on calcium
   - cont acyclovir 400 [**Hospital1 **]
   - recently completed course of Revlimid 15 mg X 21 days and Velcade 1.3
   mg/m2 qweekly for 3 weeks
   # Schizophrenia: managed by psychiatry, seen by Dr. [**Last Name (STitle) 10245**] and receives
   Haldol Depo every month.
   - haldol depo qMonthly
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-1-29**] 10:39 PM
   18 Gauge - [**2143-1-29**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2143-01-31 10:24:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: GNR bacteremia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2143-1-30**] 10:06 AM
 FEVER - 101.5
F - [**2143-1-30**] 04:00 PM
Levophed weaned off last night
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-1-30**] 08:30 AM
   Acyclovir - [**2143-1-30**] 10:41 AM
   Cefipime - [**2143-1-31**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-1-31**] 12:08 AM
   Famotidine (Pepcid) - [**2143-1-31**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Genitourinary: Foley
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2143-1-31**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**45**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.5
C (101.3
   HR: 91 (80 - 101) bpm
   BP: 110/60(72) {87/44(55) - 120/66(76)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 6 (5 - 16)mmHg
   Total In:
                                                                  2,359 mL
                                                                    905 mL
   PO:
                                                                  1,240 mL
   TF:
   IVF:
                                                                  1,069 mL
                                                                    905 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                  1,015 mL
   Urine:
                                                                  1,845 mL
                                                                  1,015 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    514 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   118 K/uL
   197 mg/dL
   4.4 mg/dL
   18 mEq/L
   4.6 mEq/L
   58 mg/dL
   108 mEq/L
   137 mEq/L
   29.2 %
   5.8 K/uL
        [image002.jpg]
                             [**2143-1-29**]  09:10 PM
                             [**2143-1-29**]  10:25 PM
                             [**2143-1-30**]  05:23 AM
                             [**2143-1-31**]  04:10 AM
   WBC
   4.1
   6.4
   5.8
   Hct
   31.4
   27.5
   29.2
   Plt
   125
   134
   118
   Cr
   3.8
   3.8
   4.2
   4.4
   Glucose
   554
   519
   76
   197
   Other labs: PT / PTT / INR:13.6/32.6/1.2, CK / CKMB / Troponin-T:798//,
   Lactic Acid:1.3 mmol/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   68M p/w confusion, hypotension, acute on chronic renal failure,
   hyperkalemia
   GNR bacteremia
   -following surveillance cx
   -on cefipime
   -d/c vanc
   Sepsis
   -presumed pyelonephritis/urinary source (UA+ UCx NGTD)
   -empiric vanc/cefipime pending cx data guidance
   -cx data pending
   -cont pressor dependence
 assess for fluid responsiveness
   Acute on chronic renal failure
   -creat continues to rise - baseline creat 1.5
   -Renal following
   -most c/w ATN
    Hypophos
   -replete
   Multiple Myeloma
   -primary oncologist contact[**Name (NI) **]
   DM
   -off insulin drip
   -glucose better controlled
   For remainder of plan, please see resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-1-29**] 10:39 PM
   18 Gauge - [**2143-1-29**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :Transfer to floor
   Total time spent: